US04511569
Preparation of 1-Dimethylaminomethylene-2-tetralone
Heat 8.0 ml of 2-tetralone and 12.0 ml of dimethylformamide dimethyl acetal under reflux at 80° for 11/2 hours. Concentrate the reaction mixture in vacuo. Dissolve the residue in hot methanol, add charcoal, filter, and concentrate the filtrate in vacuo to give the title compound, an amber oil.

reactant | 2-tetralone | 8.0 ml | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | dimethylformamide dimethyl acetal | 12.0 ml | COC(N(C)C)OC | C5H13NO2
product | 1-Dimethylaminomethylene-2-tetralone | CN(C)C=C1C(CCC2=CC=CC=C12)=O | C13H15NO
